US07622469B2
3,6-Dihydro-2,4-dioctylamino-1,3,5-triazine acetate
200 ml of butanol, 13 ml (0.15 mol) of methylal and 1.2 ml of concentrated hydrochloric acid were added to 5.8 g (14.6 mmol) of N1,N5-dioctyl-biguanide dihydrochloride, and the mixture was refluxed for 28 hours. The solvent was distilled off under reduced pressure. To the residue were added 50 ml of ethanol, 30 ml of water, and 5.9 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed successively with 10% aqueous sodium acetate andwater, and the solvent was distilled off under reduced pressure. The residue was recrystallized from methyl ethyl ketone to obtain 2.1 g of colorless crystals having a melting point of 117 to 121° C.

reactant | methylal | 0.15 mol, 13 ml | COCOC | C3H8O2
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
reactant | N1,N5-dioctyl-biguanide dihydrochloride | 14.6 mmol, 5.8 g | Cl.Cl.C(CCCCCCC)NC(=N)NC(=N)NCCCCCCCC
solvent | butanol | 200 ml | C(CCC)O | C4H10O
product | 3,6-Dihydro-2,4-dioctylamino-1,3,5-triazine acetate | 2.1 g | C(C)(=O)O.C(CCCCCCC)NC1=NCN=C(N1)NCCCCCCCC | InChI=1S/C19H39N5.C2H4O2/c1-3-5-7-9-11-13-15-20-18-22-17-23-19(24-18)21-16-14-12-10-8-6-4-2;1-2(3)4/h3-17H2,1-2H3,(H3,20,21,22,23,24);1H3,(H,3,4)
